US08466181B2
g) Methyl 4-(4-(1-(2-fluorophenyl)-4-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)benzoate
A mixture of 1-(2-fluorophenyl)-5-(1H-imidazol-4-yl)-4-methyl-1H-1,2,3-triazole (290 mg, 1.19 mmol), methyl 4-fluorobenzoate (184 mg, 1.19 mmol) and potassium carbonate (330 mg, 2.38 mmol) in DMF (6.0 mL) was stirred under Ar in a sealed flask and heated at 120° C. for 2 h. After cooling to room temperature the mixture was poured into water and extracted with ethyl acetate and the combined extracts washed with water, brine, dried over sodium sulphate, filtered and evaporated. Purification by chromatography (silica, 0 to 100% ethyl acetate in heptane) afforded the title compound (8 mg, 2%) as an off white solid. MS: m/e=378.3 [M+H]+.

reactant | 1-(2-fluorophenyl)-5-(1H-imidazol-4-yl)-4-methyl-1H-1,2,3-triazole | 1.19 mmol, 290 mg | FC1=C(C=CC=C1)N1N=NC(=C1C=1N=CNC1)C | C12H10FN5
reactant | methyl 4-fluorobenzoate | 1.19 mmol, 184 mg | FC1=CC=C(C(=O)OC)C=C1 | C8H7FO2
reactant | potassium carbonate | 2.38 mmol, 330 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 6.0 mL | CN(C)C=O | C3H7NO
product | Methyl 4-(4-(1-(2-fluorophenyl)-4-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)benzoate | 8 mg, 2% | FC1=C(C=CC=C1)N1N=NC(=C1C=1N=CN(C1)C1=CC=C(C(=O)OC)C=C1)C | C20H16FN5O2
